.title Alínea 4

.options savecurrents

*rectificator
Vs A C 0 sin(0 240 50)
D1 A B Default
D2 C B Default
D3 gnd A Default
D4 gnd C Default

*limiter
Rf B D 1k
*Cf D gnd 1u

D5 D E1 Default
D6 E1 E2 Default
D7 E2 E3 Default
D8 E3 E4 Default
D9 E4 gnd Default

*D8 gnd E2 Default
*D9 E2 E1 Default
*D10 E1 D Default

*envelope
De D F Default
Re F gnd 1k
Ce F gnd 1u

.model Default D
.op
.end

.control

set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

tran 1e-5 50e-3

hardcopy t3.ps v(d)

print all

.options savecurrents
echo  "p4_TAB"
print all
echo  "p4_END"

quit
.endc
.end